US05112988
Triethyloxonium tetrafluoroborate (2.35 g) is added to a solution of (3aRS,7aRS)-7,7-diphenyl-2-[(2-methoxyphenyl)acetyl]perhydro-4-isoindolone (5 g) in dichloromethane (10 cc). The reaction mixture is left stirring for 20 hours at room temperature; it is then treated with ether (100 cc) and the precipitate obtained is drained, washed with ether (100 cc) and dried. (3aRS,7aRS)-2-[1-Ethoxy-2-(2-methoxyphenyl)ethylidene]-4-oxo-7,7-diphenylperhydroisoindolium tetrafluoroborate (5.75 g) is obtained in the form of a yellow powder, which is used in the crude state for the following manipulation.

reactant | Triethyloxonium tetrafluoroborate | 2.35 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | (3aRS,7aRS)-7,7-diphenyl-2-[(2-methoxyphenyl)acetyl]perhydro-4-isoindolone | 5 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=O)=O)C1=CC=CC=C1 | C29H29NO3
reactant | ether | 100 cc | CCOCC | C4H10O
solvent | dichloromethane | 10 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-[1-Ethoxy-2-(2-methoxyphenyl)ethylidene]-4-oxo-7,7-diphenylperhydroisoindolium tetrafluoroborate | 5.75 g | F[B-](F)(F)F.C(C)OC(CC1=C(C=CC=C1)OC)=[N+]1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H34NO3.BF4/c1-3-35-30(20-23-12-10-11-17-29(23)34-2)32-21-26-27(22-32)31(19-18-28(26)33,24-13-6-4-7-14-24)25-15-8-5-9-16-25;2-1(3,4)5/h4-17,26-27H,3,18-22H2,1-2H3;/q+1;-1
